US08084623B2
(R)-2-(3,4-Dichloro-benzoyl)-4-hydroxy-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared by treating (R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-propyl-2-(3,4-dichloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester with TMAF following the procedure of step 3 of Example 11.

reactant | (R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-propyl-2-(3,4-dichloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@](CC(C1)O[Si](C)(C)C(C)(C)C)(C(C1=CC(=C(C=C1)Cl)Cl)=O)CCC | C25H39Cl2NO4Si
reactant | TMAF | C[N+](C)(C)C.[F-]
product | (R)-2-(3,4-Dichloro-benzoyl)-4-hydroxy-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@](CC(C1)O)(CCC)C(C1=CC(=C(C=C1)Cl)Cl)=O | C19H25Cl2NO4
